US06525042B1
2-Aminomethyl-5-tert-butoxycarbonyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridine
In tetrahydrofuran (100 ml), 5-tert-butoxycarbonyl-2-hydroxymethyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridine (2.10 g) was dissolved, followed by the addition of triphenylphosphine (2.66 g) and phthalimide (1.15 g). After the dropwise addition of diethyl azodicarboxylate (1.28 ml), the resulting mixture was stirred at room temperature for 5 hours. After concentration under reduced pressure, the residue was purified by chromatography on a silica gel column (hexane:ethyl acetate=4:1), whereby a colorless solid was obtained. The resulting solid was dissolved in ethanol (40 ml). To the solution, hydrazine hydrate (0.39 ml) was added, followed by heating under reflux for 5 hours. After the solid so precipitated was filtered off, the filtrate was concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column (dichloromethane˜dichloromethane:methanol=25:1), whereby the title compound (448 mg, 21%) was obtained.

reactant | 5-tert-butoxycarbonyl-2-hydroxymethyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridine | 2.10 g | C(C)(C)(C)OC(=O)N1CC2=C(CC1)SC(=C2)CO | C13H19NO3S
reactant | triphenylphosphine | 2.66 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | phthalimide | 1.15 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | diethyl azodicarboxylate | 1.28 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | hydrazine hydrate | 0.39 ml | O.NN
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 2-Aminomethyl-5-tert-butoxycarbonyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridine | NCC1=CC=2CN(CCC2S1)C(=O)OC(C)(C)C | C13H20N2O2S
